US08471005B2
Following the procedure of example 532 (c), (S)-1-[4-(4-Amino-3-methoxy-phenyl)-piperazin-1-yl]-propan-2-ol (0.087 g, 0.33 mmol) and 2-Methanesulfinyl-7-(2-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (0.16 g, 0.48 mmol) were heated in the microwave at 190° C. for 4 hours. Purification by Gilson chromatography gave (S)-1-(4-{4-[7-(2-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-3-methoxy-phenyl}-piperazin-1-yl)-propan-2-ol as a tan solid. MP: 98-100° C.; LCMS (m/e) 537 (M+1); 1H-NMR (DMSO-d6, 400 MHz) δ 8.94 (s, 1H), 8.16-8.15 (d, 1H, J=6.84 Hz), 7.88-7.85 (t, 1H, J=6.24 Hz), 7.80-7.76 (t, 1H, J=7.73 Hz), 7.70-7.68 (d, 1H, J=7.56 Hz), 7.60 (s, 1H), 7.44-7.42 (d, 1H, J=8.77 Hz), 6.95-6.91 (q, 2H, J=4.64 Hz), 6.56 (s, 1H), 6.21-6.18 (dd, 1H, J=2.44 Hz), 4.30-4.29 (d, 1H), 3.77 (s, 3H), 3.29 (s, 1H), 3.05-3.03 (m, 3H), 2.87 (s, 3H), 2.55-2.52 (m, 2H), 2.28-2.21 (m, 6H).

reactant | (S)-1-[4-(4-Amino-3-methoxy-phenyl)-piperazin-1-yl]-propan-2-ol | 0.33 mmol, 0.087 g | NC1=C(C=C(C=C1)N1CCN(CC1)C[C@H](C)O)OC | C14H23N3O2
reactant | 2-Methanesulfinyl-7-(2-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.48 mmol, 0.16 g | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)S(=O)(=O)C | C14H13N3O3S2
product | (S)-1-(4-{4-[7-(2-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-3-methoxy-phenyl}-piperazin-1-yl)-propan-2-ol | CS(=O)(=O)C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=C(C=C(C=C2)N2CCN(CC2)C[C@H](C)O)OC | C27H32N6O4S
